data/mechanism_extracts/GreenChem/10.1039_d3gc02701e.json
{"doi": "10.1039_d3gc02701e", "journal": "GreenChem", "is_review": false, "rxn_class_summary": "Electrochemical 1,4-alkoxydimerization of aryl alkenes with alcohols to give symmetric and asymmetric 1,4-dialkoxybutanes", "mechanism_family": ["radical_cation", "radical_polar_crossover", "direct_SET"], "electrochemical_role": "Anodic single-electron oxidation of styrene to a radical cation that initiates dimerization; a second anodic oxidation converts a β-alkoxy carbon radical to a carbocation; cathode reduces H+ to H2", "key_intermediates": [{"name": "styrene radical cation (I)", "smiles": "[CH2]=[C+](c1ccccc1).[e-]", "role": "transient"}, {"name": "distonic dimer radical cation (II, PhCH(+)CH2CH2C(•)HPh)", "smiles": null, "role": "reactive"}, {"name": "β-methoxy carbon radical (III, PhCH(OMe)CH2CH2C(•)HPh)", "smiles": "COC(c1ccccc1)CC[CH]c1ccccc1", "role": "reactive"}, {"name": "β-methoxy benzylic carbocation (IV)", "smiles": "COC(c1ccccc1)CC[CH+]c1ccccc1", "role": "reactive"}, {"name": "1,4-dimethoxy-1,4-diphenylbutane (2)", "smiles": "COC(c1ccccc1)CCC(OC)c1ccccc1", "role": "reactive"}], "electron_flow": "Anode oxidizes styrene by SET to a radical cation (I), which adds to a second styrene to form distonic cation-radical II; methanol traps the cation end giving β-alkoxy radical III; a second anodic SET oxidizes III to carbocation IV, which is trapped by a second equivalent of methanol to deliver the 1,4-dialkoxybutane; protons are reduced to H2 at the Pt cathode.", "rate_determining_step": "Initial anodic single-electron oxidation of styrene (onset ~+1.713 V)", "probe_reagents": [{"name": "BHT", "smiles": "Cc1cc(C(C)(C)C)c(O)c(C(C)(C)C)c1", "purpose": "radical_trap", "observation": "2 equiv BHT fully suppressed product formation; HRMS detected BHT adduct V of radical intermediate III"}, {"name": "(1-cyclopropylvinyl)benzene", "smiles": "C(=C)(c1ccccc1)C1CC1", "purpose": "radical_clock", "observation": "No ring-opened product observed; instead 1,2-dimethoxylation byproduct A (53%) and dimer 21 (21%) formed, attributed to fast oxidation of the radical to a cation before cyclopropyl ring-opening"}, {"name": "styrene (cyclic voltammetry)", "smiles": "C=Cc1ccccc1", "purpose": "redox_probe", "observation": "Onset oxidation potential ~+1.713 V vs reference, confirming feasibility of anodic SET to form a cation/radical cation"}], "evidence_types_used": ["intermediate_trap_BHT", "radical_clock", "cyclic_voltammetry", "isolation_of_intermediate"], "evidence_strength": "medium", "notes": "Pyrrole-, pyridine-, and furan-substituted alkenes failed, likely due to competing oxidation of the heteroarene. With the cyclopropyl probe, the absence of ring-opening is rationalized by rapid second SET (radical→cation) outcompeting the radical clock, which is itself mechanistic evidence for the radical-polar crossover step (III→IV). H2O as nucleophile gave only 12% yield; aniline, benzotriazole, AcOH, TMSCN, NH4CN were unsuccessful nucleophiles."}
